US04065497
Preparation of 1-[1,5-Di-(2-norbornyl)-3-pentyl]-1,5,9-Triazanonane Trihydrochloride
Also prepared by this method in an analogous manner regarding molar quantities and reaction conditions are 1-[1,3-di-(2-norbornyl)-2-propyl]-1,5,9-triazanonane trihydrochloride from 1,3-di-(2-norbornyl)-2-propanone and 3,3'-iminobispropylamine; 1-[1,3-di-2-norbornyl-2-propyl]-1,4,7,10-tetraazadecane tetrahydrochloride from 1,3-di-(2-norbornyl)-2-propanone and triethylenetetramine; 1-[1,7-di-(2-norbornyl)-4-heptyl]-1,5,9-triazanonane trihydrochloride from 1,7-di-(2-norbornyl)-4-heptanone and 3,3'-iminobispropylamine and 1-[2,6-di-(2-norbornyl)-4-heptyl]-1,5,9-triazanonane trihydrochloride from 2,6-di-(2-norbornyl)-4-heptanone and 3,3'-iminobispropylamine.

reactant | 1-[1,3-di-(2-norbornyl)-2-propyl]-1,5,9-triazanonane trihydrochloride | Cl.Cl.Cl.C12C(CC(CC1)C2)CC(CC2C1CCC(C2)C1)NCCCNCCCN
reactant | 1,3-di-(2-norbornyl)-2-propanone | C12C(CC(CC1)C2)CC(CC2C1CCC(C2)C1)=O | C17H26O
reactant | 3,3'-iminobispropylamine | C(CN)CNCCCN | C6H17N3
reactant | 1-[1,3-di-2-norbornyl-2-propyl]-1,4,7,10-tetraazadecane tetrahydrochloride | Cl.Cl.Cl.Cl.C12C(CC(CC1)C2)CC(CC2C1CCC(C2)C1)NCCNCCNCCN
reactant | triethylenetetramine | NCCNCCNCCN | C6H18N4
reactant | 1-[1,7-di-(2-norbornyl)-4-heptyl]-1,5,9-triazanonane trihydrochloride | Cl.Cl.Cl.C12C(CC(CC1)C2)CCCC(CCCC2C1CCC(C2)C1)NCCCNCCCN
reactant | 1,7-di-(2-norbornyl)-4-heptanone | C12C(CC(CC1)C2)CCCC(CCCC2C1CCC(C2)C1)=O | C21H34O
reactant | 1-[2,6-di-(2-norbornyl)-4-heptyl]-1,5,9-triazanonane trihydrochloride | Cl.Cl.Cl.C12C(CC(CC1)C2)C(C)CC(CC(C)C2C1CCC(C2)C1)NCCCNCCCN
reactant | 2,6-di-(2-norbornyl)-4-heptanone | C12C(CC(CC1)C2)C(C)CC(CC(C)C2C1CCC(C2)C1)=O | C21H34O
product | 1-[1,5-Di-(2-norbornyl)-3-pentyl]-1,5,9-Triazanonane Trihydrochloride | Cl.Cl.Cl.C12C(CC(CC1)C2)CCC(CCC2C1CCC(C2)C1)NCCCNCCCN | InChI=1S/C25H47N3.3ClH/c26-11-1-12-27-13-2-14-28-25(9-7-23-17-19-3-5-21(23)15-19)10-8-24-18-20-4-6-22(24)16-20;;;/h19-25,27-28H,1-18,26H2;3*1H
